US07081455B2
5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline
To a solution of 3,4-dihydro-[(2H)-quinolinamine (1.0 g, 14 mmol) and hexahydro-4H-azepin-4-one hydrochloride (1.0 g, 14 mmol) in EtOH (13 mL) was added concentrated HCl (1.2 mL). The reaction was stirred at reflux for 14 h, then cooled to 20° C. A brown precipitate was filtered from the reaction mixture, affording the title compound (800 mg, 45%) as a brown solid. 1H NMR (CD3OD, 300 MHz) δ 2.14–2.23 (m, 2H), 2.91 (t, 2H, J=6.0 Hz), 3.16–3.21 (m, 2H), 3.27–3.33 (m, 2H), 3.39–3.50 (m, 4H), 4.04 (t, 2H, J=5.7 Hz), 6.70 (d, 1H, J=6.9 Hz), 6.87–6.93 (m, 1H), 7.22 (d, 1H, J=8.0 Hz) ppm. MS (ESI): 227.2 (base, M+H).

reactant | (2H)-quinolinamine | 14 mmol, 1.0 g | N1C(C=CC2=CC=CC=C12)N | C9H10N2
reactant | hexahydro-4H-azepin-4-one hydrochloride | 14 mmol, 1.0 g | Cl.N1CCC(CCC1)=O
reactant | HCl | 1.2 mL | Cl | ClH
solvent | EtOH | 13 mL | CCO | C2H6O
product | 5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline | 800 mg, 45% | C1=CC=C2CCCN3C2=C1C1=C3CCNCC1 | C15H18N2
